US06235950B1
Approximately 100cc of Pd/C catalyst is packed into a ½″ diameter pipe reactor. Approximately 1 g/min of the hexafluoroacetone and 500cc/min hydrogen gas is fed into the reactor at atmospheric pressure and 180° C. Hexafluoro-2-propanol is produced in greater than 90% yield.

reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 100cc | [Pd] | Pd
product | Hexafluoro-2-propanol | greater than 90% yield | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
